US06984744B2
In a 100 ml round bottom 2-neck flask charged with a magnetic stirring bar and 20 ml freshly distilled CH2Cl2, 1.6 g 1-phenyl-2-phospholanemethanol-1-oxide (0.008 mol, mixture of diastereoisomers) was dissolved. The reaction flask was flushed with argon and cooled to 0° C. Subsequently 2.1 ml SOCl2 in 10 ml CH2Cl2 was added dropwise. The resulting yellowish mixture was stirred for 5 h at room temperature, then 20 ml water was added. The mixture was extracted twice with 20 ml CH2Cl2, and the combined organic phases were dried over MgSO4 and filtered. To the resulting filtrate containing crude 2-chloromethyl-1-phenylphospholane 1-oxide (mixture of isomers; 31P NMR (200 MHz) δ: 58.2, 60.3) 1.7 ml DBU was added. The mixture was heated and refluxed overnight. Evaporation of the solvent and flash chromatography of the residue with EtOAc/ethanol 20:1 yielded 1.1 g (75%) 1-phenyl-2-methylenephospholane-1-oxide as a colorless oil. 1H NMR (500 MHz) δ: 1.72-1.89 (m, 1H), 1.94-2.16 (m, 3H), 2.48-2.59 (m, 1H), 2.66-2.78 (m, 1H), 5.74 (dt, 1H, J=2.4, J=17.2), 5.88 (dt, 1H, J=2.1, J=36.6), 7.37-7.48 (m, 3H), 7.63-7.70 (m, 2H); −P NMR (200 MHz) δ: 45.0.

reactant | 1-phenyl-2-phospholanemethanol-1-oxide | 0.008 mol, 1.6 g | C1(=CC=CC=C1)P1(C(CCC1)CO)=O | C11H15O2P
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-phenyl-2-methylenephospholane-1-oxide | 1.1 g, 75% | C1(=CC=CC=C1)P1(C(CCC1)=C)=O | C11H13OP
